US05283361
G. N-[3-[2-(4-fluorophenylthio)-6-fluorophenyl]prop-2-enyl]-O-tetrahydropyranyl hydroxylamine
O-tetrahydropyranylhydroxylamine (2.88 g, 24.6 mmol) is dissolved in 15 ml of dry DMF. A solution of 1-[2-(4-fluorophenylthio)-6-fluorophenyl]3-bromoprop-1-ene (2.80 g, 8.2 mmol) in 6 ml of DMF is added and the reaction is stirred for 4 hours at room temperature. The reaction mixture is poured into 200 ml of water and then extracted twice with diethyl ether. The extracts are washed three times with water and then with brine and dried over MgSO4 to afford the crude product. Chromatography on silica gel eluting with 5:1 hexane/ethyl acetate afforded the subtitle compound.

reactant | O-tetrahydropyranylhydroxylamine | 24.6 mmol, 2.88 g | O1C(CCCC1)ON | C5H11NO2
reactant | 1-[2-(4-fluorophenylthio)-6-fluorophenyl]3-bromoprop-1-ene | 8.2 mmol, 2.80 g | FC1=CC=C(C=C1)SC1=C(C(=CC=C1)F)C=CCBr | C15H11BrF2S
reactant | water | 200 ml | O | H2O
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
product | N-[3-[2-(4-fluorophenylthio)-6-fluorophenyl]prop-2-enyl]-O-tetrahydropyranyl hydroxylamine | FC1=CC=C(C=C1)SC1=C(C(=CC=C1)F)C=CCNOC1OCCCC1 | C20H21F2NO2S
